US07842682B2
Synthesis of 4-[4-(bromomethyl)phenoxy]phthalonitrile
To a solution of 4-[4-(methansulfonylmethyl)phenoxy]phthalonitrile (1.2 g, 3.3 mmol) prepared according to Example 2, in anhydrous THF (15 ml) kept in an inert atmosphere, LiBr (0.4 g, 4.6 mmol) was added. The solution was refluxed for 1 hour, during which a white precipitate formed, then it was allowed to cool at room temperature. The white precipitate was filtered off and the solvent was evaporated. From the crude mixture the desired product was isolated by filtration on silica gel (eluent: chloroform). (1.0 g, 95%)

reactant | 4-[4-(methansulfonylmethyl)phenoxy]phthalonitrile | 3.3 mmol, 1.2 g | CS(=O)(=O)CC1=CC=C(OC=2C=C(C(C#N)=CC2)C#N)C=C1 | C16H12N2O3S
reactant | LiBr | 4.6 mmol, 0.4 g | [Li+].[Br-]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 4-[4-(bromomethyl)phenoxy]phthalonitrile | BrCC1=CC=C(OC=2C=C(C(C#N)=CC2)C#N)C=C1 | C15H9BrN2O
